US06329381B1
6-Amino-9-benzyl-2-propylaminopurine
6-Amino-9-benzyl-2-chloropurine (10 mg, 0.385 mmol) and propylamine (228 mg, 3.85 mmol) in methanol (50 ml) were heated at 120° C. for 10 hours in autoclave. The reaction mixture was condensed in vacuo and to the residue was added 5N aqueous sodium hydroxide, followed by extraction with chloroform. The organic layer was dried on sodium sulfate, filtered and the solvent in the filtrate was evaporated in vacuo. The residue was purified with silica gel chromatography (2% methanol/chloroform) to give the subject compound (99 mg, yield 91%).

reactant | 6-Amino-9-benzyl-2-chloropurine | 0.385 mmol, 10 mg | NC1=C2N=CN(C2=NC(=N1)Cl)CC1=CC=CC=C1 | C12H10ClN5
reactant | propylamine | 3.85 mmol, 228 mg | C(CC)N | C3H9N
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 6-Amino-9-benzyl-2-propylaminopurine | 99 mg, yield 91% | NC1=C2N=CN(C2=NC(=N1)NCCC)CC1=CC=CC=C1 | C15H18N6
